US09029399B2
Preparation of Intermediate 2-(2-methoxypyridin-4-yl)-2,4-diazabicyclo[3.1.0]hexan-3-one (I-31b)
Using analogous reagents and reaction conditions as described in Example 30 for the preparation of I-30c above, benzyl 4-(2-methoxypyridin-4-yl)-3-oxo-2,4-diazabicyclo[3.1.0]hexane-2-carboxylate (150.0 mg, 0.442 mmol) was treated with 10.0 mL of 6N HCl to yield the crude product. Purification by column chromatography on silica gel (1.5% methanol in chloroform) afforded 60 mg of the product (67% yield).

reactant | benzyl 4-(2-methoxypyridin-4-yl)-3-oxo-2,4-diazabicyclo[3.1.0]hexane-2-carboxylate | 0.442 mmol, 150.0 mg | COC1=NC=CC(=C1)N1C(N(C2CC12)C(=O)OCC1=CC=CC=C1)=O | C18H17N3O4
reactant | HCl | 6N, 10.0 mL | Cl | ClH
product | 2-(2-methoxypyridin-4-yl)-2,4-diazabicyclo[3.1.0]hexan-3-one | 60 mg, 67% yield | COC1=NC=CC(=C1)N1C2CC2NC1=O | C10H11N3O2
